US04954666
In a 1.3 l stainless steel autoclave, 245 g (1 mol) of 1,2-dichloro-3,3,4,4,5,5-hexafluorocyclopentene were hydrogenated at 60 to 70° C. with the addition of 202 g (2 mol) of triethylamine in 200 ml of methanol and in the presence of 20 g of Raney nickel. Over a period of 12 hours, the theoretical amount of hydrogen was absorbed at a hydrogen pressure of 40 to 50 bar. The reaction mixture was filtered and the methanolic solution was diluted with 400 ml of water. The lower organic phase was separated, washed with 100 ml of 5% aqueous hydrochloric acid, and dried over sodium sulfate. Distillation through a 1-m spinning band column gave 106 g (60% of theory) of 1,1,2,2,3,3-hexafluorocyclopentane having a boiling point of 87-88° C. at 1013 mbar. The mass spectrum showed the molecular ion at m/e 178.

reactant | 1,2-dichloro-3,3,4,4,5,5-hexafluorocyclopentene | 1 mol, 245 g | ClC1=C(C(C(C1(F)F)(F)F)(F)F)Cl | C5Cl2F6
reactant | triethylamine | 2 mol, 202 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 ml | CO | CH4O
catalyst | Raney nickel | 20 g | [Ni] | Ni
product | 1,1,2,2,3,3-hexafluorocyclopentane | 106 g, 60% | FC1(C(C(CC1)(F)F)(F)F)F | C5H4F6
